US08957074B2
Following general N—C coupling procedure 1, 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (98 mg, 0.336 mmol), was combined with 3-(6-amino-pyridazine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (112 mg, 0.336 mmol) which gave 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (115 mg, 0.195 mmol) in 58% yield. MS m/z 590.6 (M+H)+.

reactant | 2-chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.336 mmol, 98 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
reactant | 3-(6-amino-pyridazine-3-carbonyl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.336 mmol, 112 mg | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2N=NC(=CC2)N | C16H23N5O3
product | 3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.195 mmol, 115 mg, 58% yield | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2N=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H39N9O4
